US07482366B2
Alternatively, to 6-(4-bromo-furan-2-yl)-1-(2,4-difluoro-benzyl)-2-oxo-4-trifluoromethyl-1,2-dihydro-pyridine-3-carbonitrile (185 mg, 0.40 mmol) was added 2-methyl-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]propionic acid methyl ester (1.7 mL of a 0.47 M solution in 1,2-dimethoxyethane, 0.8 mmol). The mixture was diluted with 1,2-dimethoxyethane (2.3 mL) and nitrogen was bubbled through the solution as an aqueous solution of K2CO3 (0.4 mL of a 35% w/v solution in H2O, 1.0 mmol) was added. The addition of the K2CO3 solution caused the reaction mixture to turn dark. The mixture was then treated with dichloro[1,1′-bis(diphenylphosphino)ferrocene)palladium (II) dichloromethane adduct (33 mg, 40 μmol). After several minutes the nitrogen sparge was discontinued, and the vial was immersed in an oil bath held at 80° C. After stirring for 16 hours the dark reaction was allowed to cool to ambient temperature, and diluted with ether (30 mL), and H2O (10 mL). The aqueous layer was extracted with ether (1×10 ml), the combined organic layers were washed with brine (10 mL), dried over Na2SO4, filtered and concentrated to afford a dark oil. The crude material was purified by flash chromatography eluting with a gradient from 0% to 20% ethyl acetate/hexane to afford bright yellow product containing fractions from the column. Some of these fractions deposited yellow crystals upon standing. The crystals were collected and found to be pure 2-(3-{5-[5-cyano-1-(2,4-difluoro-benzyl)-6-oxo-4-trifluoromethyl-1,6-dihydro-pyridin-2-yl]-furan-3-yl}-phenyl)-2-methyl-propionic acid methyl ester (74 mg, 33% yield). 1H-NMR (400 MHz, CDCl3): δ 7.89 (1H, br s), 7.41-7.28 (4H, m), 7.11-7.05 (2H, m), 6.91-6.82 (3H, m), 5.60 (2H, s), 3.67 (3H, s), 1.61 (6H, s).

reactant | 6-(4-bromo-furan-2-yl)-1-(2,4-difluoro-benzyl)-2-oxo-4-trifluoromethyl-1,2-dihydro-pyridine-3-carbonitrile | 0.40 mmol, 185 mg | BrC=1C=C(OC1)C1=CC(=C(C(N1CC1=C(C=C(C=C1)F)F)=O)C#N)C(F)(F)F | C18H8BrF5N2O2
reactant | 2-methyl-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]propionic acid methyl ester | COC(C(C)(C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C17H25BO4
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 2.3 mL | COCCOC | C4H10O2
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | H2O | 10 mL | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene)palladium (II) dichloromethane adduct | 40 μmol, 33 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 2-(3-{5-[5-cyano-1-(2,4-difluoro-benzyl)-6-oxo-4-trifluoromethyl-1,6-dihydro-pyridin-2-yl]-furan-3-yl}-phenyl)-2-methyl-propionic acid methyl ester | 74 mg, 33% yield | COC(C(C)(C)C1=CC(=CC=C1)C1=COC(=C1)C=1N(C(C(=C(C1)C(F)(F)F)C#N)=O)CC1=C(C=C(C=C1)F)F)=O | C29H21F5N2O4
